US05254584
In a 5 liter flask were dissolved 380 g (5.77 mole) of 85% KOH in 2.2 liter of methanol and warmed up to 60° C. The methyl-3-acetoxymethyl-5-methylbenzoate from the previous step was added and heated with stirring at 60° C. for 2.5 hrs. The reaction mixture was cooled down to room temperature and the solvent eliminated in the rotavap. The resulting oil was dissolved in 1.5 liter of water and then washed with ethyl ether (1×1 liter). The aqueous layer was made acidic with concentrated hydrochloric acid and the resulting acidic suspension was extracted with ethyl acetate (3×350 ml). The combined organic extracts were then washed with water (2×600 ml) and then brine (2×500 ml), dried over sodium sulfate and concentrated in the rotavap to give 287.6 g of 3-hydroxymethyl-5-methylbenzoic acid.

reactant | KOH | 5.77 mole, 380 g | [OH-].[K+]
reactant | methyl-3-acetoxymethyl-5-methylbenzoate | COC(C1=CC(=CC(=C1)C)COC(C)=O)=O | C12H14O4
solvent | methanol | 2.2 liter | CO | CH4O
solvent | water | 1.5 liter | O | H2O
product | 3-hydroxymethyl-5-methylbenzoic acid | 287.6 g | OCC=1C=C(C(=O)O)C=C(C1)C | C9H10O3
